US04172829
2-n-Butoxy-9-cyclohexyl-9H-adenine
The procedure of Example 8 was repeated except that the 9-(2-cyclohexenyl)-2-ethoxy-9H-adenine used therein was replaced by an equivalent weight of 9-(2-cyclohexenyl)-2-n-butoxy-9H-adenine. There was produced the title product in 47% yield; m.p. 138°-141° C. IR(KBr): 3300, 2930, 1660, 1640, 1590, 1405, 1345 cm-1. UV: λmaxEtOH 253 nm(ε 7600), 269 nm(ε 11500). NMR(CDC13): 1.50(17H, m), 4.30(1H, m), 4.31(2H, t, J=6 Hz), 6.40(2H, s), 7.67(1H, s).

reactant | 9-(2-cyclohexenyl)-2-ethoxy-9H-adenine | C1(C=CCCC1)N1C2=NC(=NC(=C2N=C1)N)OCC | C13H17N5O
reactant | 9-(2-cyclohexenyl)-2-n-butoxy-9H-adenine | C1(C=CCCC1)N1C2=NC(=NC(=C2N=C1)N)OCCCC | C15H21N5O
product | 2-n-Butoxy-9-cyclohexyl-9H-adenine | 47% yield | C(CCC)OC1=NC(=C2N=CN(C2=N1)C1CCCCC1)N | C15H23N5O
